US09402841B2
Step C: (R)-3-(1-(pyrrolidin-2-ylmethoxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To crude (R)-tert-butyl 2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate was added DCM (3 mL) followed by TFA (2 mL). The mixture was stirred at RT for 2 hours and the solvent was removed in vacuo. The crude product was purified by preparative HPLC eluting with a gradient of 10-25% ACN in water (acid mode) to give the title compound (10 mg, 1.5% over 3 steps). ESI-MS m/z [M+H]+ 312.4.

reactant | (R)-tert-butyl 2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate | O=C1NC(=NN1)C=1N=C(C2=CC=CC=C2C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C21H25N5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(1-(pyrrolidin-2-ylmethoxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 10 mg, 1.5% | N1[C@H](CCC1)COC1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C16H17N5O2
